US08017607B2
A mixture of rac-[(2S,3R,4S)-4-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-2-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-acetic acid (0.2 g, 0.41 mmol), 2-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl)-ethylamine (0.15 g, 1 mmol), HATU (0.23 g, 0.6 mmol) and iPr2NEt (0.29 mL, 1.68 mmol) in CH2Cl2 (30 mL) was stirred at room temperature for 20 h. The reaction mixture was quenched with water was and the organic layer was separated, the aqueous layer was extracted with ethyl acetate. The organic layers were combined, dried over Na2SO4, and concentrated. The residue was dissolved into tetrahydrofuran (7 mL), and aqueous HCl solution (1 N, 3 mL, 3 mmol) was added to the solution. The reaction mixture was stirred at room temperature for 0.5 h. The solvent was removed, and the residue was partitioned between ethyl acetate and saturated aqueous NaHCO3 solution. The organic layer was separated, washed with water, brine, dried over Na2SO4, and concentrated. The residue was purified by chromatography (5% MeOH in EtOAc) to give rac-2-[(2S,3R,4S)-4-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-2-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-N—((S)-3,4-dihydroxy-butyl)-acetamide as an off-white solid (0.1 g, 42%). HRMS (ES+) m/z Calcd for C28H33Cl2F2N3O3+H [(M+H)+]: 568.1940; Found: 568.1943.

reactant | rac-[(2S,3R,4S)-4-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-2-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-acetic acid | 0.41 mmol, 0.2 g | ClC=1C(=C(C=CC1)[C@@H]1[C@@]([C@@H](N(C1)CC(=O)O)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)F | C24H24Cl2F2N2O2
reactant | 2-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl)-ethylamine | 1 mmol, 0.15 g | CC1(OC[C@@H](O1)CCN)C | C7H15NO2
reactant | HATU | 0.6 mmol, 0.23 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | iPr2NEt | 1.68 mmol, 0.29 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HCl | 3 mmol, 1 N, 3 mL | Cl | ClH
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
product | rac-2-[(2S,3R,4S)-4-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-2-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-N—((S)-3,4-dihydroxy-butyl)-acetamide | 0.1 g, 42% | ClC=1C(=C(C=CC1)[C@@H]1[C@@]([C@@H](N(C1)CC(=O)NCC[C@@H](CO)O)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)F | C28H33Cl2F2N3O3
